US06420426B1
A stirring slurry of 6-fluoro-4-methoxy-biphenyl-3-carboxylic acid (1.0 g, 4.06 mmol) in dichloromethane (8.2 mL, 0.5 M) was treated with oxalyl chloride (1.1 mL, 12.2 mmol) and DMF (1 drop). The mixture was heated to 40° C. until the solution was clear (1-2 h). Next, the mixture was allowed to cool to room temperature, concentrated under reduced pressure, and then diluted with dichloromethane (8.2 mL, 0.5 M). To the stirring mixture at 0° C. was added diisdpropylethyl amine (1.8 mL, 10.2 mmol) followed by 3-nitrobenzylamine hydrochloride salt (1.2 g, 6.1 mmol). Stirring under nitrogen, the solution was gradually warmed to room temperature and stirred overnight. The mixture was then diluted with dichloromethane and washed with 2N HCl (2×50 mL) and saturated aq NaCl (1×100 mL) The organic layer was dried over Na2SO4, filtered, and concentrated to afford a yellow oil. Purification by MPLC (10-100% ethyl acetate in heptane, 23 mL/min, 75 min) provided 6-fluoro-4-methoxy-biphenyl-3-carboxylic acid 3-nitro-benzylamide (1.0 g, 65%) as a yellow solid: Rf 0.33 (50% ethyl acetate in heptane); 1H NMR (DMSO-d6, 300 MHz) δ 8.90 (bd t, J=6.2 Hz, 1H), 8.10 (dd, J1=7.2 Hz, J2=2.4 Hz, 1H), 7.84 (d, J=9.3 Hz, 1H), 7.79 (d, J=7.5 Hz, 1H), 7.63 (t, J=8.0 Hz, 1H), 7.52-7.43 (m, 5H), 7.40-7.34 (m, 1H), 7.20 (d, J=12.9 Hz, 1H), 4.61 (d, J=6.0 Hz, 2H), 3.96 (s, 3H).

reactant | 6-fluoro-4-methoxy-biphenyl-3-carboxylic acid | 4.06 mmol, 1.0 g | FC1=CC(=C(C=C1C1=CC=CC=C1)C(=O)O)OC | C14H11FO3
reactant | oxalyl chloride | 12.2 mmol, 1.1 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-nitrobenzylamine hydrochloride salt | 6.1 mmol, 1.2 g | Cl.[N+](=O)([O-])C=1C=C(CN)C=CC1
solvent | dichloromethane | 0.5 M, 8.2 mL | ClCCl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 6-fluoro-4-methoxy-biphenyl-3-carboxylic acid 3-nitro-benzylamide | 1.0 g, 65% | [N+](=O)([O-])C=1C=C(CNC(=O)C=2C=C(C(=CC2OC)F)C2=CC=CC=C2)C=CC1 | C21H17FN2O4
